US07834021B2
8-(5-Ethyl-1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol.
A solution of n-butyllithium (5.70 mL of 1.6 M solution in hexane, 9.12 mmol) was added to 8-(1,3-thiazol -2-yl)-1,4-dioxaspiro[4.5]decan-8-ol (1.00 g, 4.14 mmol) in THF (10 mL) at −78° C. with stirring under N2. After being stirred at −78° C. for 1 h, ethyl iodide (0.736 mL, 9.12 mmol) was added to the lithiated compound solution via syringe at −78° C. The reaction mixture was allowed to warm to room temperature slowly and stirred overnight. Water and EtOAc were added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with saturated NaCl, dried (MgSO4), concentrated and flash chromatographed using 20% EtOAc/hexane to give 0.79 g of the title compound in 71% yield. MS (EI) calcd: (M+H)+=270.1; found: 270.1.

reactant | n-butyllithium | 9.12 mmol, 1.6 M, 5.70 mL | C(CCC)[Li]
reactant | 8-(1,3-thiazol -2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 4.14 mmol, 1.00 g | S1C(=NC=C1)C1(CCC2(OCCO2)CC1)O | C11H15NO3S
reactant | ethyl iodide | 9.12 mmol, 0.736 mL | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-(5-Ethyl-1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 0.79 g, 71% yield | C(C)C1=CN=C(S1)C1(CCC2(OCCO2)CC1)O | C13H19NO3S
